*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/4.70e-02[uF]/16[V]
* Murata P/N :GRM155R71C473JA01
* Property : C = 4.70e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71C473JA01 Port1 Port2
C01 Port1 N01 4.57e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.93e-10
R03 N02 N03 2.33e-02
C04 N03 N04 5.97e-06
R04 N03 N04 5.33e+02
C05 N04 N05 7.65e-06
R05 N04 N05 7.03e+01
C06 N05 N06 6.05e-06
R06 N05 N06 1.17e+01
C07 N06 N07 5.80e-06
R07 N06 N07 1.34e+00
C08 N07 N08 4.87e-06
R08 N07 N08 2.02e-01
C09 N08 N09 2.90e-06
R09 N08 N09 4.58e-02
L10 N09 N10 1.67e-11
R10 N09 N10 2.90e-01
L11 N10 N11 7.54e-11
R11 N10 N11 1.10e-01
C12 N11 N12 1.46e-06
L12 N11 N12 2.84e-12
R12 N11 N12 5.76e-03
C13 N12 N13 5.18e-08
L13 N12 N13 3.82e-11
R13 N12 N13 3.32e-02
C14 N13 Port2 9.13e-12
L14 N13 Port2 3.76e-11
R14 N13 Port2 6.24e+00
.ENDS GRM155R71C473JA01
